### PR TITLE
[Merged by Bors] - chore: Delete `Algebra.GroupPower.Basic`, `Algebra.GroupWithZero.Bitwise`

### PR DESCRIPTION
**Pull request by YaelDillies**
The entire `Algebra.GroupPower` folder is problematic in that it treats `pow` as an advanced subject while the rest of mathlib wants to treat it as a primitive. As such, its existence is an obstacle to developing the theory of `pow` transversally.

This PR scatters the lemmas in `Algebra.GroupPower.Basic` to earlier files and deletes it. Also delete `Algebra.GroupWithZero.Bitwise` whose lemmas are completely deprecated (and hard to rehome).

See #9411 for previous work.

---

- [x] depends on: #11986
- [x] depends on: #12286
- [x] depends on: #12736

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Field/Power.lean [hunk 1]
```diff
@@ -25,15 +25,11 @@ section DivisionRing
...
-set_option linter.deprecated false in
-@[simp]
-theorem zpow_bit1_neg (a : α) (n : ℤ) : (-a) ^ bit1 n = -a ^ bit1 n := by
-  rw [zpow_bit1', zpow_bit1', neg_mul_neg, neg_mul_eq_mul_neg]
-#align zpow_bit1_neg zpow_bit1_neg
-
 theorem Odd.neg_zpow (h : Odd n) (a : α) : (-a) ^ n = -a ^ n := by
-  obtain ⟨k, rfl⟩ := h.exists_bit1
-  exact zpow_bit1_neg _ _
+  have hn : n ≠ 0 := by rintro rfl; exact Int.odd_iff_not_even.1 h even_zero
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Field/Power.lean:29]: This should exist as a lemma, IMO

File: Mathlib/Data/Complex/Basic.lean [hunk 2]
```diff
@@ -814,20 +813,6 @@ noncomputable instance instField : Field ℂ where
 @[simp, norm_cast]
 lemma ofReal_qsmul (q : ℚ) (r : ℝ) : ofReal' (q • r) = q • r := by simp [Rat.smul_def]
 
-section
-set_option linter.deprecated false
-@[simp]
-theorem I_zpow_bit0 (n : ℤ) : I ^ bit0 n = (-1 : ℂ) ^ n := by rw [zpow_bit0', I_mul_I]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Complex/Basic.lean:820]: Ref. (brief) discussion in #11414

**Review by Ruben-VandeVelde — COMMENTED** [review]
This is quite big. Would you consider at least splitting out the removals from the moved code?

File: Mathlib/Data/Complex/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Complex/Basic.lean:820]: I don't see the connection. I can't replace this lemma by an `ofNat` lemma since the statement depends on the parity.

**Comment by Vierkantor** [comment]
Not sure I like this approach. `Algebra.Group.Basic` is already a big file so why do you want to make it heavier this way? I'd rather have a lighter weight `GroupPower.Basic` that imports `Group.Basic` plus the imports you added to it in this PR.

File: Mathlib/Algebra/Group/Defs.lean [hunk 3]
```diff
@@ -1004,6 +1063,28 @@ theorem div_eq_mul_inv (a b : G) : a / b = a * b⁻¹ :=
...
 
+@[to_additive (attr := simp) one_zsmul]
+lemma zpow_one (a : G) : a ^ (1 : ℤ) = a := by convert pow_one a using 1; exact zpow_natCast a 1
+#align zpow_one zpow_one
+#align one_zsmul one_zsmul
+
+@[to_additive two_zsmul]
+lemma zpow_two (a : G) : a ^ (2 : ℤ) = a * a := by convert pow_two a using 1; exact zpow_natCast a 2
+#align zpow_two zpow_two
+#align two_zsmul two_zsmul
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Defs.lean:1074]: These can easily avoid `convert` with respectively
```
  rw [zpow_ofNat, pow_one]
  rw [zpow_ofNat, pow_two]
```

File: Mathlib/Algebra/Group/Units.lean [hunk 4]
```diff
@@ -3,8 +3,8 @@ Copyright (c) 2017 Kenny Lau. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kenny Lau, Mario Carneiro, Johannes Hölzl, Chris Hughes, Jens Wagemaker, Jon Eugster
 -/
+import Mathlib.Algebra.Group.Commute.Defs
 import Mathlib.Algebra.Group.Basic
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Units.lean:7]:
```suggestion
import Mathlib.Algebra.Group.Basic
import Mathlib.Algebra.Group.Commute.Defs
```

File: Mathlib/Algebra/Group/Defs.lean [hunk 5]
```diff
@@ -1280,6 +1371,3 @@ initialize_simps_projections Group
 initialize_simps_projections AddGroup
 initialize_simps_projections CommGroup
 initialize_simps_projections AddCommGroup
-
-assert_not_exists Function.Injective
-assert_not_exists IsCommutative
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/Defs.lean:1285]: And then you can restore these

File: Mathlib/Algebra/Order/Field/Power.lean [hunk 6]
```diff
@@ -258,7 +223,7 @@ def evalZPow : PositivityExt where eval {u α} zα pα e := do
       have m : Q(ℕ) := mkRawNatLit (n / 2)
       haveI' : $b =Q $m + $m := ⟨⟩ -- b = bit0 m
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Field/Power.lean:224]: Is bit0 even involved anywhere now?

File: Mathlib/Algebra/Order/Field/Power.lean [hunk 7]
```diff
@@ -267,7 +232,7 @@ def evalZPow : PositivityExt where eval {u α} zα pα e := do
       have m : Q(ℕ) := mkRawNatLit (n / 2)
       haveI' : $b =Q (-$m) + (-$m) := ⟨⟩ -- b = bit0 (-m)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Field/Power.lean:233]: Ditto

**Review by Ruben-VandeVelde — COMMENTED** [review]
This seems reasonable as far as organization goes. I do still believe we should limit this PR to moves, though, and discuss removing lemmas separately

File: Mathlib/Algebra/Group/Defs.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Defs.lean:1285]: Sorry, I don't understand your message. I can't restore these.

File: Mathlib/Algebra/GroupWithZero/Power.lean [hunk 8]
```diff
@@ -154,17 +154,17 @@ theorem zpow_sub₀ {a : G₀} (ha : a ≠ 0) (z1 z2 : ℤ) : a ^ (z1 - z2) = a
...
 
-theorem zpow_eq_zero {x : G₀} {n : ℤ} (h : x ^ n = 0) : x = 0 :=
-  by_contradiction fun hx => zpow_ne_zero_of_ne_zero hx n h
-#align zpow_eq_zero zpow_eq_zero
+lemma eq_zero_of_zpow_eq_zero : a ^ n = 0 → a = 0 := not_imp_not.1 (zpow_ne_zero_of_ne_zero · _)
+#align zpow_eq_zero eq_zero_of_zpow_eq_zero
 
-theorem zpow_eq_zero_iff {a : G₀} {n : ℤ} (hn : n ≠ 0) : a ^ n = 0 ↔ a = 0 :=
-  ⟨zpow_eq_zero, fun ha => ha.symm ▸ zero_zpow _ hn⟩
+lemma zpow_ne_zero (n : ℤ) : a ≠ 0 → a ^ n ≠ 0 := mt eq_zero_of_zpow_eq_zero
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Power.lean:160]: Sure, but I didn't add this lemma here

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Power.lean:160]: See #12734

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
